US08729105B2
Preparation of 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carbonitrile
To a solution of 25 g 2-(4-chloro-phenyl)-3-cyclopropylmethoxy-pyridine 1-oxide in 500 mL acetonitrile, 9.23 g triethylamine and 10.73 g dimethylcarbamoylchlorid were added. After 5 minutes at room temperature, 27.88 g trimethylsilylcyanid was added. The reaction mixture was stirred at 90° C. over 15 h. The reaction mixture was partitioned between water and ethyl acetate; then extracted. The organic phase was washed with brine; then dried over MgSO4 and purified by chromatography on silica gel with a gradient of heptane to heptane:ethyl acetate 2:1 to yield 15.30 g (59.26%) of the title compound as light yellow solid, MS 285.1 (M+H)+.

reactant | 2-(4-chloro-phenyl)-3-cyclopropylmethoxy-pyridine 1-oxide | 25 g | ClC1=CC=C(C=C1)C1=[N+](C=CC=C1OCC1CC1)[O-] | C15H14ClNO2
reactant | triethylamine | 9.23 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoylchlorid | 10.73 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | trimethylsilylcyanid | 27.88 g | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carbonitrile | 15.30 g, 59.26% | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C#N)OCC1CC1 | C16H13ClN2O
